US05073559
A stirred mixture of methyl 4-methoxysalicylate (25 g), bromopropane (15.6 ml), potassium iodide (2.82 g) and anhydrous potassium carbonate (27.53 g) was heated under reflux for 48 hours. The cooled reaction mixture was filtered and the filtrate was evaporated under reduced pressure to yield an oil which was dissolved in diethyl ether (200 ml). The ethereal solution was extracted with aqueous sodium hydroxide to remove unreacted starting material and the organic phase was then washed with water and brine, dried (magnesium sulphate) and evaporated under reduced pressure to yield methyl 4-methoxy-2-propoxybenzoate, 22.45 g.

reactant | methyl 4-methoxysalicylate | 25 g | COC=1C=C(C(C(=O)OC)=CC1)O | C9H10O4
reactant | bromopropane | 15.6 ml | BrCCC | C3H7Br
reactant | potassium iodide | 2.82 g | [I-].[K+]
reactant | potassium carbonate | 27.53 g | C([O-])([O-])=O.[K+].[K+]
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | methyl 4-methoxy-2-propoxybenzoate | COC1=CC(=C(C(=O)OC)C=C1)OCCC | C12H16O4
